US06506901B2
4-((2S)-3-{[1-(3,4-Dimethoxy-benzenesulfonyl)-piperidin-4-ylmethyl]-amino}-2-hydroxy-propoxy)-1,3-dihydro-indol-2-one
Prepared from 4-[(2S)-oxiranylmethoxy]-2-oxindole (0.205 g, 1.0 mmol) and 4-aminomethyl-1-piperidinyl-3,4-dimethoxybenzenesulfonamide (0.628 g, 2.0 mmol) according to procedure used for Example 2 to give 0.145 g of the title compound as a rose colored solid. Dissolved in CH2Cl2 and treated with 0.5 mL of 1N HCl in Et2O. Resulting solids filtered and dried to give 0.140 g of title compound as the HCl salt.

reactant | 4-[(2S)-oxiranylmethoxy]-2-oxindole | 1.0 mmol, 0.205 g | O1[C@@H](C1)COC1=C2CC(NC2=CC=C1)=O | C11H11NO3
reactant | 4-aminomethyl-1-piperidinyl-3,4-dimethoxybenzenesulfonamide | 2.0 mmol, 0.628 g | NCC1(C(=CC(C=C1)(S(=O)(=O)N)N1CCCCC1)OC)OC | C14H25N3O4S
product | 4-((2S)-3-{[1-(3,4-Dimethoxy-benzenesulfonyl)-piperidin-4-ylmethyl]-amino}-2-hydroxy-propoxy)-1,3-dihydro-indol-2-one | 0.145 g | COC=1C=C(C=CC1OC)S(=O)(=O)N1CCC(CC1)CNC[C@@H](COC1=C2CC(NC2=CC=C1)=O)O | C25H33N3O7S
